US04990614
In the same manner as in Reference Example 2, N-tert-butoxycarbonyl-L-asparagine (5.0 g) and 1-methylpiperazine (2.2 g) were condensed to obtain colorless crystal 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-methylpiperazine (5.5 g).

reactant | N-tert-butoxycarbonyl-L-asparagine | 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
reactant | 1-methylpiperazine | 2.2 g | CN1CCNCC1 | C5H12N2
product | 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-methylpiperazine | 5.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C | C14H26N4O4
